Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
___ yo M with h/o HIV (CD4 172 in ___, VL undetectable ___, 
HBV cirrhosis c/b esophageal varices s/p TIPS, HTN, HLD, GERD, 
aortic stenosis ___ echo per OSH report EF 65%, aortic valve 
area 0.7) p/w shortness of breath, GI bleed. Pt initially 
presented to ___ for dyspnea on exertion. Pt 
noted that about a week ago started to get very short of breath 
when walking, no dyspnea at rest. He has a h/o aortic stenosis 
per OSH report and thought it may be due to that so presented to 
ED at OSH on ___. Got short of breath even walking a few 
feeth to bathroom. Denied nausea, vomiting, blood in stool, 
black stools, diarrhea, constipation, or other complaints. No 
cough or chest pain, but did note a fever to 101 day prior to 
admission to OSH. Also noted occasional lightheadedness.  
.  
At OSH, guaiac was negative in ED initially, received IVF for 
his ___ (Cr was 2.1). Monitored on tele with no events and seen 
by cardiology consult, dyspnea thought to be unrelated to aortic 
stenosis. Pt is on nadolol at home however had not been taking. 
Gradual drop in Hct/Hgb noted, on ___ Hgb 7.3 and Hct 21.9, 
transfused 2 units PRBC with increase to 11 and 30.2 on AM of 
___. After receiving 2nd unit of blood on ___, pt had one 
bowel movement with black stool and noted black blood in the 
stool, bright red blood on the toilet paper. He notes a second 
black stool this afternoon at 2 pm. No lightheadedness, chest 
pain, dyspnea. Pt transferred to ___ at son's request given 
his liver followup is here. VS on transfer 119/52, HR 65, RR 16, 
sat 93% RA  
.  
Currently pt denies any complaints. Had some lower abdominal 
pain earlier after his bowel movement but this is now resolved. 
No lightheadedness or shortnes of breath, but thinks that if he 
were to get up he would be shrot of breath.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, constipation, melena, dysuria, hematuria. 

 
Past Medical History:
* Cirrhosis c/b ascites and variceal bleeding, no encephalopathy
-- cause not yet clearly established
-- h/o liver biopsy in ___ showing lobular hepatitis, CMV 
positive
-- EGD ___ OSH which revealed esophageal varices:
3 columns-2 grade III and 1 grade II esophageal varices with
stigmata of bleeding and were banded. Pt was also noted gastric
varices. Banded x2 at OSH.
* Hepatitis B, but HbSAb positive/HbCAb positive
* HIV (CD4 most recent CD4 290 in ___, VL <48 ___ on 
HAART, on dapsone ppx
* HTN
* Hyperlipidemia
* Anemia
* GERD
* Hemorrhoids
* Aortic stenosis - aortic valve area 0.7
 
Social History:
___
Family History:
unavailable as patient states he never knew his family well  

 
Physical Exam:
Admission Exam:
VS: 98 147/65 63 20 97% RA  
GENERAL: NAD, AAOx3  
HEENT: PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no JVD.  
HEART: S1S2, RRR, III/VI diastolic murmur  
LUNGS: CTA bilat  
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding. LUQ 
nontender to palpation even with deep palpation. -ascites  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: No rashes or lesions.  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact, 
no asterixis  
.
Discharge Exam:
VS: T ___ BP 119-132/50-80 HR 60-70 RR 18 O2 Sat 95% RA
GEN: Cachectic appearing man in NAD. 
CV: RRR, III/VI late peaking systolic murmur best heard at the 
RUSB rads to carotids. Normal S1, partially obscured S2. No 
S3/S4. 
PULM: Bibasilar crackles, no increased WOB. No wheezes or 
rhonchi. 
ABD: Flat, NTND. No rigidity, rebound or guarding. 
EXT: WWP, no c/c/e. 
NEURO: A/Ox3, CN II-XII intact. No asterexis. Non focal. 

 
Pertinent Results:
Admission Labs:
___ 10:57PM BLOOD WBC-5.1 RBC-3.83* Hgb-10.5* Hct-31.2* 
MCV-82# MCH-27.4 MCHC-33.6 RDW-16.1* Plt ___
___ 10:57PM BLOOD ___ PTT-31.6 ___
___ 07:20AM BLOOD  WBC-6.4 Lymph-15* Abs ___ CD3%-58 
Abs CD3-554* CD4%-10 Abs CD4-94* CD8%-48 Abs CD8-458 
CD4/CD8-0.2*
___ 10:57PM BLOOD Glucose-86 UreaN-26* Creat-1.6* Na-140 
K-4.6 Cl-110* HCO3-19* AnGap-16
___ 10:57PM BLOOD ALT-15 AST-19 LD(LDH)-186 AlkPhos-145* 
TotBili-1.8*
___ 10:57PM BLOOD Albumin-3.3* Calcium-8.3* Phos-3.1 Mg-1.7

Discharge Labs:
___ 07:35AM BLOOD WBC-6.1 RBC-3.16* Hgb-8.4* Hct-26.2* 
MCV-83 MCH-26.7* MCHC-32.1 RDW-17.0* Plt ___
___ 07:35AM BLOOD Glucose-91 UreaN-21* Creat-1.2 Na-139 
K-4.1 Cl-107 HCO3-22 AnGap-14
___ 05:50AM BLOOD TotBili-1.0
___ 07:35AM BLOOD TotProt-6.3* Phos-3.2

Liver ___ (___):
FINDINGS: The liver echotexture is normal. There is no focal 
intrahepatic 
lesion or intrahepatic bile duct dilation. Numerous tiny 
gallstones are again seen within a normal-appearing gallbladder, 
unchanged since ___. The CBD is not dilated, 
measuring 3 mm. No ductal stones are appreciated. 
  
DOPPLER SPECTRAL ANALYSIS: A TIPS stent is redemonstrated, 
showing 
wall-to-wall flow. The main portal vein velocity is 40 cm/sec. 
The proximal, mid, and distal TIPS demonstrate velocities of 99, 
67, and 107 cm/sec. There is appropriate reversed flow within 
the left portal vein, and hepatopetal flow within the main 
portal vein. The hepatic veins are widely patent, demonstrating 
proper hepatofugal flow. The splenic vein and IVC are patent. 
The main hepatic artery demonstrates normal arterial waveforms. 
  
IMPRESSION: 
1. No focal intrahepatic lesions or intrahepatic bile duct 
dilation. 
2. Patent TIPS with normal Doppler parameters. 
3. Cholelithiasis. 
.
EGD Mucosal Bx (___):
1.  Antral mucosa with focal, mild regeneration of gastric pits 
and small area suggestive of early granulation tissue formation 
with a rare, superficial neutrophil, raising the possibility of 
adjacent erosion/ulceration or chemical-type injury.
2.  Corpus mucosa, within normal limits.
3.  Immunohistochemical stain for Helicobacter will be performed 
and results reported in an addendum.
.
CXR ___:
FINDINGS: Heart size is normal. Mediastinal and hilar contours 
are within 
normal limits and without change. Within the lungs, there are no 
focal areas of consolidation to suggest pneumonia. Right apical 
bullae are without change. No pleural effusion or acute skeletal 
finding. 
IMPRESSION: No radiographic evidence of pneumonia. 
.
Renal ___ (___):
FINDINGS: The right kidney measures 8.7 cm in its long axis. 
Within its 
lower pole is a 4-mm echogenic focus which shows reverberation 
artifact with color Doppler, compatible with a small stone. 
There is no hydronephrosis. 
  
The left kidney measures 10.2 cm in its long axis and shows no 
stones, masses, or hydronephrosis. 
  
Transverse and sagittal views of the bladder demonstrate 
near-complete 
decompression. 
  
IMPRESSION: 4-mm stone in the right lower pole; no evidence of 
hydronephrosis. 
  
The study and the report were reviewed by the staff radiologist. 

.
R Knee XRay (___):
IMPRESSION: Five views of the right knee fail to show clear 
periarticular fat planes such that there may be a knee joint 
effusion, and even a ___ cyst component. These findings are 
best evaluated with ultrasound. There is no significant internal 
derangement, no fracture, dislocation or destructive bone 
lesion. Atherosclerotic calcification is mild. 
 

 
Brief Hospital Course:
Primary Reason for Admission: ___ yo M with h/o HIV (CD4 172 in 
___, VL undetectable ___, cirrhosis (unclear etiology) c/b 
ascites, variceal bleed s/p TIPS c/b encephalopathy, HTN, HLD, 
GERD, ___ esophagus, AoS ___ echo per OSH report EF 65%, 
aortic valve area 0.7) transferred from OSH for low hct, 
dyspnea.
.
Active Problems:
.
# GI bleed: At OSH, pt w/ melena and hct drop to ___ s/p 2 units 
pRBC.  On transfer to ___ TIPs by US appeared to be patent. He 
received protonix and octreotide gtt overnight, and underwent 
endoscopy in the AM that did not show varices but was evident 
for gastric ulcers s/p biopsies.  His hct remained stable in the 
___. He was discharged on protonix po and sucralfate.
.
# Bacteremia: On ___ pt began spiking fevers and was 
pan-cultured and started on Ceftriaxone and Vancomycin. 
Thereafter, he remained afebrile throughout his course. He grew 
GPCs in his blood that were speciated as Strep sensitive to 
Clindamycin. His Ceftriaxone/Vanc were d/c'ed and his was sent 
home with a 2 week course of Clindamycin with appropraite follow 
up. The primary team felt his bacteremia was ___ translocation 
in the setting of Cirrhosis and recent GIB. 
.  
# Cirrhosis: Unclear etiology, ultrasound on admission did not 
show hepatic lesions and showed patent TIPs.  He was continued 
on rifaximin. 
  
# ___: Cr on transfer 1.6, which was down from 2.1 at OSH though 
still elevated from baseline.  He was given a trial of albumin 
and Cr initially worsened. He then grew GPCs in his blood and 
was started on Vanc and IVF, at which time his ___ resolved. 
Renal was consulted in the interim and felt his ___ was 
pre-renal in the setting of sepsis and cirrhosis. At discharge, 
his Cr was 1.2. 
. 
# Aortic stenosis: Patient evaluated by cardiology at OSH, with 
stable, but severe AS that was likely contributing to his 
dyspnea.  Patient is considering percutaneous valve if continues 
to progress. On transfer he appeared volume depleted and was 
given albumin (see above). The option of AVR was discussed with 
the liver attending and recommendation was made for outpatient 
Hepatology f/u to asses whether he was well enough for surgery 
or percutaneous valve. He will see his Hepatologist this week, 
at which time surgery/perc valve can be discussed.   
. 
# Diarrhea: Patient had an episode of diarrhea at OSH, though no 
further episodes while in house. All stool studies were 
negative. 

# Dyspnea: His dyspnea improved on transfer and was felt to be 
multi-factorial: known severe aortic stenosis w/ preload 
dependence and anemia.  CXR was obtained and did not show 
evidence of infection. At the time of discahrge, he denied 
dyspnea. 
.
Chronic Problems:
.
# HIV: His antivirals epivir, norvir, darunavir and ppx 
(dapsone) were continued. CD4 count was obtained (see results). 
.  
# HLD: continued pravastatin  
 . 
# HTN: losartan held in the setting of bleed and ___ and was 
restarted s/p resolution of ___.   
.
Transitional Issues: He was discharged home with Hepatology 
follow up. He was instructed to see his PCP and ID physician 
within 1 week of discharge. Discussion of per AVR vs surgical 
AVR should be discussed with his ___ at his next 
appointment. 
 
Medications on Admission:
dapsone 50 mg daily  
losartan 50 mg daily  
darunavir 800 mg daily  
norvir 100 mg daily  
epivir 150 mg daily  
protonix 40 mg daily  
rifaxamin 550 mg BID  
polyethylene glycol daily  
lorazepam 0.5 mg HS prn  
pravastatin 10 mg daily
 
Discharge Medications:
1. darunavir 400 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. dapsone 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
4. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. lamivudine 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. pravastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily).  
8. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia/anxiety.  
9. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
10. sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).
Disp:*120 Tablet(s)* Refills:*2*
11. losartan 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

12. clindamycin HCl 300 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) for 14 days.
Disp:*56 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Priomary Diagnosis:
Gastric ulcer
Secondary Diagnosis:
HIV
Strep Bacteremia
Malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ for your GI bleed; you underwent 
endoscopy that showed you have a gastric ulcer, but no varicies 
or active bleeding. Your hematocrit remained stable while you 
were here. You spiked a fever while you were here and we found 
that you had bacteria in your blood. For this we started you on 
antibiotics. We feel you are now safe to return home. 

We have made the following changes to your medications:
CHANGE: Protonix twice a day
START: Sucralfate four times a day
START: Clindamycin 300mg every 6 hours for 14 days

It is very important that you finish all antibiotics as 
prescribed. You should follow up with Dr. ___ on ___. At 
that visit, you should discuss the need for ongoing antibiotic 
therapy and whether or not he feels an aortic valve replacement 
would benefit you. It will also be important for you to follow 
up with your physician for ongoing management of your HIV. Thank 
you for allowing us to participate in your care. 
 
Followup Instructions:
___